US08198311B2
Prepared from 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylpropan-1-amine TFA salt (25 mg, 0.05 mmol) by adding 2,2,2-trifluoroethanesulfonyl chloride under the General Coupling Method B conditions. Obtained 22 mg (82%) of 2,2,2-trifluoro-N-(3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylpropyl)acetamide. MS found: (M+H)+=442.

reactant | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylpropan-1-amine TFA salt | 0.05 mmol, 25 mg | OC(=O)C(F)(F)F.FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(CCN)C1=CC=CC=C1
reactant | 2,2,2-trifluoroethanesulfonyl chloride | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
product | 2,2,2-trifluoro-N-(3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylpropyl)acetamide | 22 mg, 82% | FC(C(=O)NCCC(C1=CC=CC=C1)C=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)(F)F | C24H19F4N3O
